US04515788
Trifluoroacetic acid (11.2 ml) was added to a stirred suspension of benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.8 g) in methylene chloride (5.6 ml) and anisole (2.8 ml) at ambient temperature and the mixture was stirred for 1.5 hours at the same temperature. To the resultant solution was added diisopropyl ether (40 ml) and n-hexane (30 ml) and the mixture was stirred. The precipitates were collected by filtration, washed with a solution of diisopropyl ether and n-hexane (1:1). The precipitates were added to a mixture of ethyl acetate and water and the mixture was adjusted to pH 7.0 with a saturated aqueous solution of potassium carbonate. The separated aqueous layer was adjusted to pH 4.0 with 10% hydrochloric acid and the solution was washed with ethyl acetate. The aqueous layer was adjusted to pH 1.8 with 10% hydrochloric acid and saturated with sodium chloride. The acidic solution was extracted with ethyl acetate and tetrahydrofuran (1:1). The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated to give 7-[2-carboxymethoxyimino-2-(4-thiazolyl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.22 g).

reactant | Trifluoroacetic acid | 11.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 2.8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=CSC1 | C33H32N4O7S2
reactant | diisopropyl ether | 40 ml | C(C)(C)OC(C)C | C6H14O
reactant | n-hexane | 30 ml | CCCCCC | C6H14
solvent | methylene chloride | 5.6 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 2.8 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-carboxymethoxyimino-2-(4-thiazolyl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.22 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)C=1N=CSC1 | C16H14N4O7S2
